US07612114B2
To a solution of 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (9.3 g) in tetrahydrofuran (100 ml) were sequentially added pyridine (8.0 ml) and acetic anhydride (6.2 ml), and the solution was stirred overnight at room temperature. To the reaction solution was added 1N hydrochloric acid, the solution was extracted with ethyl acetate, then sequentially washed with a saturated aqueous solution of sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. To a solution of the resulting N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide (9.1 g) in tetrahydrofuran (100 ml) was added lithium aluminum hydride (2.7 g), and the solution was refluxed for 2 hours. Ammonia solution (1 ml) and anhydrous magnesium sulfate were added on an ice bath, the solution was filtered, and then the solvent was evaporated in vacuo to provide ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (8.8 g). To a solution of 4-benzyloxybenzoic acid (9.1 g) in dichloromethane (80 ml) were sequentially added oxalyl chloride (5.1 ml) and N,N-dimethylformamide (0.05 ml), the solution was stirred overnight at room temperature, then the solvent was evaporated in vacuo. To the total amount of the resulting 4-benzyloxybenzoyl chloride were sequentially added 1,4-dioxane (100 ml), N,N-diisopropylethylamine (15 ml) and ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (8.3 g), and the solution was refluxed for 30 minutes. To the reaction solution was added 1N hydrochloric acid, the solution was extracted with ethyl acetate, then sequentially washed with a saturated aqueous solution of sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo. Synthesized from the total amount of the resulting 4-benzyloxy-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide (crude product) according to an analogous synthetic method to Example 22, the title compound (13 g) was obtained.

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 9.3 g | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | pyridine | 8.0 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 6.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 8.8 g | C(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C20H25NO2
